US07514566B2
tert-butyl (1R,2R)-2,3-dihydroxy-1-(4-(trifluoromethyl)phenyl)propylcarbamate
To (2R,3R)-3-azido-3-(4-(trifluoromethyl)phenyl)propane-1,2-diol (14.50 g, 56 mmol) in 120 mL EtOAc, was added di-t-butyldicarbonate (17 g, 78 mmol) and 10% Pd/C (1.45 g, 14 mmol). The mixture was hydrogenated at atmospheric pressure until no starting material could be observed by TLC (about 36 hours). The reaction mixture was filtered through Celite. The filtrate was washed twice with water and twice with brine solution and then dried over sodium sulfate. After removing the solvent, 100 mL hexane was added into the residue and a precipitate appeared. The resulting precipitate was filtered and washed with cold hexane. The white solid was air-dried and was obtained as the desired product (11.0 g, yield=60%). 1H NMR (400 MHz, CD3OD) δ ppm 1.42 (s, 9H) 3.43-3.52 (m, 2H) 3.84 (q, J=5.41 Hz, 1H) 4.75 (d, J=5.67 Hz, 1H) 7.52-7.57 (m, 2H) 7.60-7.64 (m, 2H).

reactant | (2R,3R)-3-azido-3-(4-(trifluoromethyl)phenyl)propane-1,2-diol | 56 mmol, 14.50 g | N(=[N+]=[N-])[C@@H]([C@H](CO)O)C1=CC=C(C=C1)C(F)(F)F | C10H10F3N3O2
reactant | di-t-butyldicarbonate | 78 mmol, 17 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | EtOAc | 120 mL | CCOC(=O)C | C4H8O2
catalyst | Pd/C | 14 mmol, 1.45 g | [Pd] | Pd
product | tert-butyl (1R,2R)-2,3-dihydroxy-1-(4-(trifluoromethyl)phenyl)propylcarbamate | 11.0 g, yield=60% | O[C@H]([C@@H](C1=CC=C(C=C1)C(F)(F)F)NC(OC(C)(C)C)=O)CO | C15H20F3NO4
